US04022826
USSR Patent Specification No. 173,763 also describes the preparation of beta-chloroformyl-ethyl ethyl phosphinic acid chloride by reacting ethyldichlorophosphine and acrylic acid in benzene at temperatures of up to 60° C., over a period of 2.5 hours, and distilling the reaction product, which is obtained in a yield of 62.4 % of the theoretical. In the absence of the benzene solvent, the temperature increases spontaneously to 150° C., and the yield falls to 31.6 % of the theoretical. The reaction of ethyldichlorophosphine with methacrylic acid, in the absence of a solvent, produces beta-chloroformyl-beta-methyl-ethyl ethyl phosphinic acid chloride in a yield of 37.2 % of the theoretical.

reactant | beta-chloroformyl-ethyl ethyl phosphinic acid chloride | ClC(=O)CCP(=O)(CC)Cl | C5H9Cl2O2P
reactant | ethyldichlorophosphine | C(C)P(Cl)Cl | C2H5Cl2P
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | beta-chloroformyl-beta-methyl-ethyl ethyl phosphinic acid chloride | yield of 37.2 % | ClC(=O)C(CP(=O)(CC)Cl)C | C6H11Cl2O2P
